Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
morphine / Keflex
 
Attending: ___
 
___ Complaint:
Left proximal humerus fracture malunion and post-traumatic 
osteoarthritis
 
Major Surgical or Invasive Procedure:
Left total shoulder arthroplasty (Dr. ___, ___

 
History of Present Illness:
Ms. ___ returns.  Her orthopedic history is well
documented.  She returns after having an MRI.  The MRI of the
left shoulder demonstrates severe glenohumeral joint arthrosis
with focal areas of marrow signal change at the anterior aspect
of the humeral head.  The rotator cuff tendons are diffusely
attenuated and suggested chronic partial-thickness
articular-sided tears without evidence of a full-thickness tear.

She continues to have discomfort and pain in her left shoulder. 
It hurts her tremendously.
 
Past Medical History:
- CKD
- Osteoporosis
- Anemia
- Dysphagia
- Cervical radiculopathy
- Polyneuropathy
- Frequent falls
- Hx Basal cell carcinoma
- Hx Lentigo maligna
- Hx Squamous cell carcinoma of skin
- Hx Ankle fracture
- Hx Humerus fracture, proximal w/ shoulder arthroplasty ___
 
Social History:
___
Family History:
Mother with facial cancer. Didn't know her father. Sister 
healthy.

 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Incision healing well with staples, covered w/ Silverlon   
* Scant serosanguinous drainage  
* Shoulder/arm full but soft  
* ___ grip strength  
* SILT, NVI distally  
* Fingers warm and well perfused
 
Pertinent Results:
___ 07:00AM BLOOD WBC-10.0 RBC-2.67* Hgb-8.1* Hct-25.0* 
MCV-94 MCH-30.4 MCHC-32.5 RDW-13.4 Plt ___
___ 07:05AM BLOOD WBC-12.1* RBC-2.72* Hgb-8.2* Hct-25.2* 
MCV-93 MCH-30.2 MCHC-32.6 RDW-13.5 Plt ___
___ 07:00AM BLOOD WBC-12.6*# RBC-2.93* Hgb-8.8* Hct-27.2* 
MCV-93 MCH-30.0 MCHC-32.4 RDW-13.6 Plt ___
___ 07:00AM BLOOD Glucose-97 UreaN-13 Creat-0.8 Na-136 
K-4.2 Cl-102 HCO3-28 AnGap-10
___ 07:05AM BLOOD Glucose-116* UreaN-13 Creat-0.9 Na-133 
K-4.2 Cl-102 HCO3-26 AnGap-9
___ 07:00AM BLOOD Glucose-121* UreaN-14 Creat-1.1 Na-135 
K-4.2 Cl-104 HCO3-23 AnGap-12
___ 07:00AM BLOOD Calcium-8.1* Phos-1.9* Mg-1.8
___ 07:05AM BLOOD Calcium-7.9* Phos-2.1* Mg-1.7
___ 07:00AM BLOOD Calcium-7.6* Phos-3.0 Mg-1.6
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Otherwise, pain was initially controlled with a PCA/intrascalene 
catheter followed by a transition to oral pain medications on 
POD#1.  The patient received Lovenox  while in ___ for DVT 
prophylaxis starting upon removal of intrascalene catheter on 
POD#1.  The foley was removed on POD#2 and the patient was 
voiding independently thereafter. The surgical Silverlon 
dressing was found to be clean and intact without erythema or 
abnormal drainage. The patient was seen by physical therapy & 
occupational therapy. Labs were checked throughout the hospital 
course and repleted accordingly. At the time of discharge the 
patient was tolerating a regular diet and feeling well.  The 
patient was afebrile with stable vital signs.  The patient's 
hematocrit was acceptable and pain was adequately controlled on 
an oral regimen. The operative extremity was neurovascularly 
intact and the wound was benign. 

The patient's weight-bearing status is NON-weight bearing on the 
operative extremity.
 
Ms. ___ is discharged to rehab in stable condition.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 1 mg PO BID:PRN anxiety 
2. Calcium Carbonate 500 mg PO BID 
3. LOPERamide 2 mg PO BID:PRN loose stools 
4. Multivitamins 1 TAB PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Celecoxib 100 mg ORAL DAILY 
7. Fluoxetine 20 mg PO DAILY 
8. Gabapentin 600 mg PO TID 
9. Levothyroxine Sodium 75 mcg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Hydrocodone-Acetaminophen (5mg-325mg) 2 TAB PO TID 
12. TraZODone 150 mg PO QHS:PRN insomnia 
13. Ferrous Sulfate 325 mg PO DAILY 
14. Mupirocin Ointment 2% 1 Appl TP BID 

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO BID 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Fluoxetine 20 mg PO DAILY 
4. Gabapentin 600 mg PO TID 
5. Levothyroxine Sodium 75 mcg PO DAILY 
6. LOPERamide 2 mg PO BID:PRN loose stools 
7. Lorazepam 1 mg PO BID:PRN anxiety 
8. Multivitamins 1 TAB PO DAILY 
9. Mupirocin Ointment 2% 1 Appl TP BID 
10. Omeprazole 20 mg PO DAILY 
11. TraZODone 150 mg PO QHS:PRN insomnia 
12. Vitamin D 1000 UNIT PO DAILY 
13. Senna 17.2 mg PO BID 
This is a new medication to treat your constipation. Hold for 
loose stools.   
14. Docusate Sodium 100 mg PO BID 
This is a new medication to treat your constipation. Hold for 
loose stools.  
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
15. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
Do not drive or consume alcohol while taking. 
RX *oxycodone 5 mg 1 to 2 tablet(s) by mouth every four (4) 
hours 16. Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*100 Tablet Refills:*0
17. Aspirin 325 mg PO DAILY Duration: 28 Days 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*28 
Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left shoulder proximal humerus fracture malunion and 
posttraumatic osteoarthritis now s/p left total shoulder 
arthroplasty (___)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
 
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
 
3. Resume your home medications unless otherwise instructed.
 
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your ___.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
 
5. You may not drive a car until cleared to do so by your 
surgeon.
 
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in two (___) weeks.
 
7. SWELLING: Ice your shoulder joint 20 minutes at a time, 
especially after ROM exercises and when you start physical 
therapy. Do not place ice directly on the skin. Please DO NOT 
take any non-steroidal anti-inflammatory medications (NSAIDs 
such as Celebrex, ibuprofen, Advil, Aleve, Motrin, naproxen 
etc). This may effect your healing.
 
8. ANTICOAGULATION: Please take ASA 325mg PO QD for four (4) 
weeks to help prevent deep vein thrombosis (blood clots).  If 
you were taking aspirin prior to your surgery, it is OK to 
continue at your previous dose while taking this medication.  
 
9. WOUND CARE: Please keep your Silverlon dressing clean and 
dry. REMOVE SILVERLON DRESSING on ___. It is okay to shower 
five days after surgery but no tub baths, swimming, or 
submerging your incision until after your four (4) week checkup. 
You may place a dry sterile dressing on the wound after the 
Silverlon dressing is removed, otherwise leave it open to air. 
Check wound regularly for signs of infection such as redness or 
thick yellow drainage. Staples will be removed at your follow-up 
visit in ___ weeks.
  
10. ACTIVITY: NON-Weight bearing on the operative extremity. You 
MUST wear your sling for 4 weeks. You may come out of your sling 
to perform elbow and wrist exercises and shower, but must 
replace the sling upon completion. You may do pendulum 
exercises. Please read the discharge paperwork for home 
exercises/pendulums you can perform upon discharge from the 
hospital. 
Physical Therapy:
Ambulate twice daily if patient able
Right upper extremity:  Full weight bearing
Left upper extremity:  Non weight bearing
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
Remove Silverlon dressing on ___
DSD daily prn drainage upon removal of Silverlon
Ice and elevate arm
TEDs
Staples will be removed at your first post-operative visit in 
___ weeks.
 
Followup Instructions:
___